US07064124B2
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-phenoxybenzoic acid
Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-phenoxybenzoate (0.220 g, 0.487 mmol) was dissolved in a mixed solution of an aqueous 1N NaOH solution (3 ml) and 1,4-dioxane (5 ml) and the resulting solution was stirred at room temperature for 12 hours. The reaction solution was diluted with water, rendered acidic with concentrated hydrochloric acid and then extracted with ether. The extract was washed with water and then dried, and the solvent was removed by distillation. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to obtain the titled compound (0.210 g, 0.479 mmol, 98%).

reactant | Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-phenoxybenzoate | 0.487 mmol, 0.220 g | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)OC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C26H28O7
reactant | hydrochloric acid | Cl | ClH
solvent | NaOH | 1N, 3 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-phenoxybenzoic acid | 0.479 mmol, 0.210 g, 98% | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)OC2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C25H26O7
